US07807709B2
N-[(3S*,4S*)-4-(1-Cyclopropyl-3-methyl-3-phenyl-ureidomethyl)-pyrrolidin-3-ylmethyl]-N-isopropyl-4-methoxy-3-(3-methoxy-propoxy)-benzamide
A solution of (3R*,4R*)-3-(1-cyclopropyl-3-methyl-3-phenyl-ureidomethyl)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (195 mg, 0.29 mmol) in 4N HCl/dioxane (8 mL) is stirred at RT until the reaction is complete. Lyophilization affords the title compound as a colorless foam. MS (LC-MS): 567.1 [M+H]+; tR (HPLC, Macherey-Nagel Nucleosil C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/3 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 ml/min): 4.57 min.

reactant | (3R*,4R*)-3-(1-cyclopropyl-3-methyl-3-phenyl-ureidomethyl)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.29 mmol, 195 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CN(C(=O)N(C1=CC=CC=C1)C)C1CC1 | C37H54N4O7
solvent | HCl dioxane | 4N, 8 mL | Cl.O1CCOCC1
product | N-[(3S*,4S*)-4-(1-Cyclopropyl-3-methyl-3-phenyl-ureidomethyl)-pyrrolidin-3-ylmethyl]-N-isopropyl-4-methoxy-3-(3-methoxy-propoxy)-benzamide | C1(CC1)N(C(=O)N(C1=CC=CC=C1)C)C[C@H]1[C@@H](CNC1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C | C32H46N4O5
